US07427688B2
Synthesis of 2-acetylamino-3,3-bis(4-fluorophenyl)propanoic acid
To a solution of diethyl acetamidomalonate (1.09 g, 5 mmol) in N-methyl-2-pyrrolidone (4 mL) was added 55% sodium hydride (219 mg, 5 mmol), and the mixture was stirred at room temperature for 1 hr. Bis(4-fluorophenyl)methylene bromide (990 mg, 4 mmol) was added, and the mixture was stirred at 50° C. for 4 hrs. After completion of the reaction, toluene (20 mL) and water (10 mL) were added to the reaction mixture and the mixture was partitioned. The obtained organic layer was washed twice with water (10 mL) and concentrated. Ethanol (4.5 mL) and 2M aqueous sodium hydroxide solution (5 mL) were added to the concentrated solution, and the mixture was stirred at 90° C. for 16 hrs. The reaction mixture was allowed to cool to 25° C., toluene (8 mL) and water (5 mL) were added, and the mixture was partitioned. The aqueous layer was concentrated to a half volume, and isopropyl acetate (8 mL) and water (10 mL) were added. The mixture was adjusted to pH 1.1 with concentrated hydrochloric acid and partitioned. The organic layer was washed with water (10 mL), concentrated and dried under vacuum to give the title compound (973 mg).

reactant | diethyl acetamidomalonate | 5 mmol, 1.09 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | sodium hydride | 5 mmol, 219 mg | [H-].[Na+]
reactant | Bis(4-fluorophenyl)methylene bromide | 4 mmol, 990 mg | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)(Br)Br | C13H8Br2F2
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | N-methyl-2-pyrrolidone | 4 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 10 mL | O | H2O
product | 2-acetylamino-3,3-bis(4-fluorophenyl)propanoic acid | 973 mg | C(C)(=O)NC(C(=O)O)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C17H15F2NO3
